US04064260
2,3-Dihydro-5,6-bis(p-methoxyphenyl)imidazo[2,1-b]thiazole
To a stirred slurry of 3.1 g (0.01 mole) 4,5 bis-(p-methoxyphenyl)-2-mercaptoimidazole [Anschutz and Schwickerath, Ann., 284, 24 (1895)] in 50 ml methanol was added 0.65 g (0.012 mole) of sodium methoxide. To the resulting solution was added 2.6 g (0.011 mole) 2-chloroethyl-p-toluenesulfonate in 10 ml methanol. The mixture was heated at reflux overnight. Another 0.5 g (0.002 mole) of 2-chloroethyl-p-toluenesulfonate was added and refluxing was continued another 2 hours. The mixture was poured into ice water and extracted with methylene chloride three times. The methylene chloride layers were dried and concentrated on a rotary evaporator. The residue was chromatographed on silica gel, eluting with chloroform. The product was obtained by trituration of fractions 4 and 5 with ether to give crystalline material, m.p. 149°-151°. Analysis by IR, NMR and CHN microanalysis indicated the product in a purity of about 85%.

reactant | 4,5 bis-(p-methoxyphenyl)-2-mercaptoimidazole | 0.01 mole, 3.1 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium methoxide | 0.012 mole, 0.65 g | C[O-].[Na+]
reactant | 2-chloroethyl-p-toluenesulfonate | 0.011 mole, 2.6 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
reactant | 2-chloroethyl-p-toluenesulfonate | 0.002 mole, 0.5 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2,3-Dihydro-5,6-bis(p-methoxyphenyl)imidazo[2,1-b]thiazole | COC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)OC | C19H18N2O2S
